US04816587
Preparation of 2-bromo-α-ergocryptine
1.3 ml of trimethylbromosilane (6 equivalents as calculated for α-ergocryptine to be brominated) are added to 40 ml of anhydrous dimethylsulfoxide and the solution is stirred at room temperature for 15 minutes. After adding 1 g (0.001739 mole) of α-ergocryptine, the mixture is stirred at room temperature for 10 minutes, then poured into 200 ml of ice-water and the pH value is adjusted to 8-9 by adding aqueous ammonia. The aqueous solution is extracted 3 times with 50 ml of dichloromethane each, then the combined organic phase is washed 3 times with 30 ml of 10% sodium chloride solution each. The dichloromethane solution is dried over anhydrous sodium sulfate, filtered and evaporated to 10 ml under reduced pressure. The residue is led through an aluminum oxide column moistened with 10 g of an 1:1 mixture of dichloromethane and ethyl acetate. The first fraction of 50 ml volume (containing the 2-bromo-α-ergocryptine) is evaporated to dryness, the residue is dissolved in 10 ml of dichloromethane, then 30 ml of diisopropyl ether are added to the residue and concentrated to its half volume under environmental pressure. The white crystalline precipitate is filtered off, washed and dried to give the title compound in a yield of 1.06 g (0.001617 mole, 93%), m.p.: 218° C., [α]D20 =-195° (c=1, dichloromethane).

reactant | trimethylbromosilane | 1.3 ml, 6 equivalents | C[Si](Br)(C)C | C3H9BrSi
reactant | α-ergocryptine | 0.001739 mole, 1 g | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@@H]5CC6=CNC7=C6C(=CC=C7)C5=C4)C)O | C32H41N5O5
reactant | ammonia | N | H3N
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-bromo-α-ergocryptine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@@H]5CC6=C(NC7=CC=CC(=C67)C5=C4)Br)C)O | C32H40BrN5O5
